US05861417
Combine methyl 2-methoxy-5-formylbenzoate oxime (3.5 g, 16.7 mmol) in dichloromethane (75 mL) and cool in an ice-bath. Add dropwise thionyl chloride (2.0 mL, 27.2 mmol). After 20 minutes, dilute the reaction mixture with dichloromethane and extract with a saturated aqueous solution of sodium bicarbonate and then brine. Dry the organic layer over MgSO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 1/1 ethyl acetate/hexane to give methyl 2-methoxy-5-cyanobenzoate.

reactant | methyl 2-methoxy-5-formylbenzoate oxime | 16.7 mmol, 3.5 g | COC1=C(C(OC)=NO)C=C(C=C1)C=O | C10H11NO4
reactant | thionyl chloride | 27.2 mmol, 2.0 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | methyl 2-methoxy-5-cyanobenzoate | COC1=C(C(=O)OC)C=C(C=C1)C#N | C10H9NO3
